US05308820
A solution of carbobenzoxy-(S)-valine (1.26 g, 5 mmol) in anhydrous THF (20 ml) was vigorously stirred and thereto were added triethylamine (0.70 ml, 5 mmol) and isobutyl chloroformate (0.66 ml, 5 mmol) at 0° C. To this mixture was added cyclohexylamine (0.57 ml, 5 mmol) and this mixture was stirred for 2 hours at 0° C. and further for 24 hours at room temperature. The solvent was removed to obtain white crystals. These crystals were dissolved in a mixture of CH2Cl2 (80 ml) and water (30 ml). The organic layer was washed with 0.5M boric acid, a saturated aqueous sodium chloride solution, a saturated aqueous sodium hydrogencarbonate solution, a saturated aqueous sodium chloride solution and water (50 ml each) in succession, dried over Na2SO4 and concentrated under reduced pressure to obtain crude carbobenzoxy-(S)-valine cyclohexylamide (1.45 g, 87%), which was used as it was for the following reaction.

reactant | carbobenzoxy-(S)-valine | 5 mmol, 1.26 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | triethylamine | 5 mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 5 mmol, 0.66 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | cyclohexylamine | 5 mmol, 0.57 ml | C1(CCCCC1)N | C6H13N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | carbobenzoxy-(S)-valine cyclohexylamide | 1.45 g, 87% | C1(CCCCC1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C19H28N2O3
